US09334278B2
To a mixture of 5-methylpyridin-2-amine (38.0 mg, 351 μmol), 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (100 mg, 234 μmol) (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (7.28 mg, 11.7 μmol), palladium(II) acetate (13.1 mg, 58.5 μmol) and sodium tert-butoxide (56.2 mg, 585 μmol) was added DMF (1 mL) and toluene (500 μL) and the mixture heated in a microwave at 140° C. for 20 min. The dark mixture generated was poured into water and extracted with ethyl acetate. The organic layers were combined, washed with brine, dried (magnesium sulfate), filtered and purified by chromatography (silica, 30-70% ethyl acetate in hexanes) to give N-tert-butyl-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (62 mg, 136 μmol, 58%) as an off white solid. MS (EI/CI) m/z: 455.3 [M+H].

reactant | 5-methylpyridin-2-amine | 351 μmol, 38.0 mg | CC=1C=CC(=NC1)N | C6H8N2
reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 234 μmol, 100 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | sodium tert-butoxide | 585 μmol, 56.2 mg | CC(C)([O-])C.[Na+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 58.5 μmol, 13.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | toluene | 500 μL | C1(=CC=CC=C1)C | C7H8
product | N-tert-butyl-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 136 μmol, 62 mg, 58% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NC=C(C=C2)C)COCC[Si](C)(C)C | C23H34N6O2Si
